US07553837B2
Production of 2-hydroxymethyl-2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran
2.3 g of 2-hydroxymethyl-2,4,6,7-tetramethyldihydrobenzofuran was dissolved in 30 ml of anhydrous acetic acid and 1.9 ml of nitric acid was added dropwise while stirring at 0° C. After stirring at 0° C. for one hour, the solution was poured into ice-water, followed by stirring at room temperature for one hour. The reaction solution was extracted with ether, washed with saturated saline and dried over anhydrous magnesium sulfate and, after the solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography (chloroform) to obtain 1.34 g of the objective product.

reactant | 2-hydroxymethyl-2,4,6,7-tetramethyldihydrobenzofuran | 2.3 g | OCC1(OC=2C(C1)C(C=C(C2C)C)C)C | C13H20O2
reactant | nitric acid | 1.9 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-hydroxymethyl-2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran | 1.34 g | OCC1(OC=2C(C1)C(C(=C(C2C)C)[N+](=O)[O-])C)C | C13H19NO4
